US08058461B2
11a): N-(4-Methylphenyl)-1,1-dimethyl-1-(2-methyl-1H-inden-7-yl)silanamine
To a solution of 6.44 g (60.0 mmol) of p-toluidine in 180 mL of THF 24.0 mL (60.0 mmol) of 2.5 M nBuLi in hexanes was added at 0° C. This mixture was additionally stirred for 4 hours at room temperature, then cooled to −40° C., and a solution of 13.4 g (60.0 mmol) of chloro(dimethyl)(2-methyl-1H-inden-7-yl)silane in 50 mL of THF was added in one portion. The resulting mixture was stirred for 12 hours at room temperature and then evaporated to dryness. To the residue 100 mL of ether was added, and the obtained suspension was stirred for 20 minutes, and then filtered through glass frit (G3). The precipitate was additionally washed with 2×100 mL of ether. The combined filtrate was evaporated to dryness, and the residue was washed with 2×15 mL of cold hexanes and then dried in vacuum. Yield 11.3 g (64%) of white solid. 1H NMR (CD2Cl2): δ 7.40 (dd, J=7.3 Hz, J=1.3 Hz, 1H, 6-H in indenyl), 7.32 (dd, J=7.3 Hz, J=1.3 Hz, 1H, 4-H in indenyl), 7.26 (t, J=7.3 Hz, 1H, 5-H in indenyl), 6.88-6.91 (m, 2H, 2,6-H in p-tolyl), 6.53-6.57 (m, 2H, 3,5-H in p-tolyl), 6.52 (m, 1H, 3-H in indenyl), 3.68 (br.s, 1H, NH), 3.40 (s, 2H, 1,1′-H in indenyl), 2.20 (s, 3H, 4-Me in p-tolyl), 2.16 (m, 3H, 2-Me in indenyl), 0.57 (s, 6H, SiMe2). Anal. Calc. for C19H23NSi: C, 77.76; H, 7.90; N, 4.77%. Found: C, 77.94; H, 8.05; N, 4.94%.

reactant | p-toluidine | 60.0 mmol, 6.44 g | NC1=CC=C(C=C1)C | C7H9N
reactant | nBuLi | 2.5 M | [Li]CCCC
reactant | chloro(dimethyl)(2-methyl-1H-inden-7-yl)silane | 60.0 mmol, 13.4 g | Cl[Si](C=1C=CC=C2C=C(CC12)C)(C)C | C12H15ClSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 60.0 mmol, 180 mL | C1CCOC1 | C4H8O
product | N-(4-Methylphenyl)-1,1-dimethyl-1-(2-methyl-1H-inden-7-yl)silanamine | CC1=CC=C(C=C1)N[Si](C=1C=CC=C2C=C(CC12)C)(C)C | C19H23NSi
